US07262318B2
4′-Trifluoromethoxy-biphenyl-4-ylamine
A mixture of 4-trifluoromethoxylbenzeneboronic acid (300 mg, 1.45 mmol), p-bromoaniline (100 mg, 0.58 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (24 mg,0.029 mmol), 1,1′-bis(diphenylphosphino)ferrocene (16 mg, 0.029 mmol) and potassium carbonate (0.58 ml of a 2M aqueous solution, 1.16 mmol) in 5 ml 1,4-dioxane was heated at reflux under nitrogen for 20 hr. The reaction mixture was cooled to room temperature, diluted with 40 ml water and extracted with 2×40 ml ethyl acetate. The combined ethyl acetate extracts were washed with 40 ml brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude product was purified by flash column chromatography (silica gel, 15 g), eluting with 10:1 hexane/ethyl acetate to yield the title compound as a tan solid (70 mg, 48% yield). MS: 254.1 (M+1)

reactant | 4-trifluoromethoxylbenzeneboronic acid | 1.45 mmol, 300 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | p-bromoaniline | 0.58 mmol, 100 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.029 mmol, 24 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.029 mmol, 16 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4′-Trifluoromethoxy-biphenyl-4-ylamine | 70 mg, 48% yield | FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)N)(F)F | C13H10F3NO
